US05756531
To a solution of 5-methoxy-2-methyl-3-indoleacetic acid (4 g, 18.3 mmol) in anhydrous DMF (20 mL) at 0°-5° C. was added NaH (1.6 g, 60% dispersion in oil, 40 mmol) and stirred at room temperature for 40 min., then cooled again to 0°-5° C., and treated with 4-chlorophenylmethyl chloride (5.9 g, 36.6 mmol) and let stand at room temperature overnight. Water (50 ml) was added and the mixture was extracted with ethylacetate (100 mL), washed with brine and dried (MgSO4), evaporated in vacuo, and purified by chromatography (silica gel, 10% ethylacetate in pentane) to yield 1-(4-chlorophenylmethyl)-5-methoxy-2-methyl-3-indoleacetic acid 4-chlorophenylmethyl ester.

reactant | 5-methoxy-2-methyl-3-indoleacetic acid | 18.3 mmol, 4 g | COC=1C=C2C(=C(NC2=CC1)C)CC(=O)O | C12H13NO3
reactant | NaH | 40 mmol, 1.6 g | [H-].[Na+]
reactant | 4-chlorophenylmethyl chloride | 36.6 mmol, 5.9 g | ClC1=CC=C(C=C1)CCl | C7H6Cl2
reactant | Water | 50 ml | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-chlorophenylmethyl)-5-methoxy-2-methyl-3-indoleacetic acid 4-chlorophenylmethyl ester | ClC1=CC=C(C=C1)COC(CC1=C(N(C2=CC=C(C=C12)OC)CC1=CC=C(C=C1)Cl)C)=O | C26H23Cl2NO3
